US07465795B2
4-amino-7-fluoro-8-(2-methyl-5-fluorophenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-7-fluoro-8-iodo-N-propyl-cinnoline-3-carboxamide (300 mg, 0.80 mmol) and (2-methyl-5-fluorophenyl)boronic acid (246.8 mg, 1.60 mmol) were reacted to afford the title compound (164.7 mg, 58% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.48 (bs, 1H), 7.93 (d×d, J=5.3 Hz, J=9.4 Hz, 1H), 7.54 (apparent t, J=8.6 Hz, 1H), 7.30 (d×d, J=5.6 Hz, J=8.3 Hz, 1H), 6.99-7.09 (m, 2H), 3.44 (apparent q, J=7.0 Hz, 2H), 2.03 (s, 3H), 1.64 (apparent sextet, J=7.4 Hz, 2H), 0.99 (t, J=7.4 Hz, 3H). MS APCI, m/z=357 (M+H) HPLC 2.78 min.

reactant | 4-amino-7-fluoro-8-iodo-N-propyl-cinnoline-3-carboxamide | 0.80 mmol, 300 mg | NC1=C(N=NC2=C(C(=CC=C12)F)I)C(=O)NCCC | C12H12FIN4O
reactant | (2-methyl-5-fluorophenyl)boronic acid | 1.60 mmol, 246.8 mg | CC1=C(C=C(C=C1)F)B(O)O | C7H8BFO2
product | 4-amino-7-fluoro-8-(2-methyl-5-fluorophenyl)-N-propyl-cinnoline-3-carboxamide | 164.7 mg, 58% yield | NC1=C(N=NC2=C(C(=CC=C12)F)C1=C(C=CC(=C1)F)C)C(=O)NCCC | C19H18F2N4O
